### PR TITLE
Mostly refactorings

### PR DESCRIPTION
**Pull request by traiansf**
- changed plans to be less dependent on the VLSM.
- generalized simulation results to pre_loaded_with (in preparation for next stage)
- extracted definitions and results, simplified formulation, documentation

### CODE REVIEW

File: VLSM/Composition.v [hunk 1]
```diff
@@ -871,6 +877,14 @@ If @(sj, om)@ has the [protocol_prop]erty for component and @s@ is the [lift_to_
 
 End VLSM_composition.
 
+(** Composite versions for the generic [_apply_plan]-related definitions and
+results.
+*)
+Notation composite_apply_plan IM := (@_apply_plan _ (composite_type IM) (composite_transition IM)).
+Notation composite_apply_plan_app IM := (@_apply_plan_app _ (composite_type IM) (composite_transition IM)).
+Notation composite_apply_plan_last IM := (@_apply_plan_last _ (composite_type IM) (composite_transition IM)).
+Notation composite_trace_to_plan IM := (@_trace_to_plan _ (composite_type IM)).
```
Comment (palmskog) [inline VLSM/Composition.v:886]: The names `_apply_plan` and `_trace_to_plan` are a bit awkward to begin with (starting with `_` is pretty unconventional), so I see the need for better aliases. However, is there an obvious reason why these are notation and `composite_plan` is a definition?

File: VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v [hunk 2]
```diff
@@ -221,54 +270,53 @@ Proof.
...
   apply Heq_state_in. apply (proj1 finite_index). apply (proj2 finite_index).
 Qed.
 
-Lemma replay_trace_from_state_correspondence'
-  (full_replay_state : vstate equivocators_no_equivocations_vlsm)
-  (is : vstate equivocators_no_equivocations_vlsm)
-  (His : vinitial_state_prop equivocators_no_equivocations_vlsm is)
+(**
+This lemma matches states in the replay with the state in the original trace.
+It is lengthy because there are many cases to consider
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v:307]: With many cases to consider, there may be some way to factor the monolithic proof into several, which is good to know.
```suggestion
This lengthy proof covers all cases, and might be good to split up in the future.
```

File: VLSM/Plans.v [hunk 3]
```diff
@@ -43,105 +56,150 @@ Section apply_plans.
...
+
+End apply_plans.
+
+(**
+We define several notations useful when we want to use the results above
+for a specific [VLSM], by instantiating the generic definitions with the
+corresponding [type] and [transition].
+*)
+
+Notation vplan_item X := (@plan_item _ (type X)).
```
Comment (palmskog) [inline VLSM/Plans.v:165]: Same comment as elsewhere, is there an obvious heuristic/principle for choosing between notations and definitions? Should there be one?

**Review by palmskog — APPROVED** [review]
Overall, looks like reasonable improvements to definitions/proofs (fewer explicit terms is usually good). However, some comments on construct choices.

Also, maybe we should have conventions for commenting on `Definition`, `Lemma`, etc. If it's a one-liner, I would be in favor of:
```coq
(** This captures the foo of the bar. *)
Definition foo_of_bar := bar_baz quux.
```
Rather than, say:
```coq
(** 
This captures the foo of the bar
*)
Definition foo_of_bar := bar_baz quux.
```

File: VLSM/Composition.v (hunk 1 above)
Comment (traiansf) [reply VLSM/Composition.v:886]: Not necessarily. My main aim was to avoid changing the existing proofs too much, and using definitions seemed to require additional unfolding.  composite_plan being a type, makes it less than an issue.

File: VLSM/Plans.v (hunk 3 above)
Comment (traiansf) [reply VLSM/Plans.v:165]: Same comment as above.  I was usually using definitions; But using Notations seems to be less intrusive in this particula case.  Nevertheless, I don't passionately care about either way, so I'm willing to defer it to the expert, i.e., you: if you have any recommendation/generic guideline, I'd be ok with following it.
